US08067445B2
Step 4: (2′-Ethylaminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-difluoro-acetic acid
Prepared according to the procedure described in Example 1, Step 5, using the following starting materials: difluoro-(2′-formyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid and ethylamine (2M in THF).

reactant | difluoro-(2′-formyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid | FC(C(=O)O)(C=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)C=O)F | C17H11F5O4
reactant | ethylamine | 2M | C(C)N | C2H7N
product | (2′-Ethylaminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-difluoro-acetic acid | C(C)NCC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=CC=C1OC)C(C(=O)O)(F)F | C19H18F5NO3
